US06156787
6,6-Dimethyl-1-(pyrrolidin-1-ylcarbonyl)-3-(2,2,2-trifluoroethylthio)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a suspension of 6,6-dimethyl-3-methanesulphonyl-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (400 mg, 1.1 mmol) in EtOH (15 mL) was added NaOH (0.7 mL of a 3 M solution, 2.3 mmol) followed by 2,2,2-trifluoroethanethiol (0.2 mL, 2.2 mmol). The mixture was stirred at room temperature for 3 h then evaporated. The residue was partitioned between EtOAc (20 mL) and NaOH (1M; 30 mL). The organic layer was separated, dried (Na2SO4) and evaporated. The residue was triturated with ether and the colourless solid (166 mg, 35%) collected by filtration. C17H20F3NO2S2 requires: C, 52.16; H, 5.15; N, 3.58%. Found: C, 51.86; H, 4.99; N, 3.61%. 1H NMR (360 MHz, CDCl3) δ 1.05 (6H, s), 1.95-1.99 (4H, m), 2.42 (2H, s), 2.86 (2H, s), 3.57-3.63 (4H, m), 3.66 (2H, q, J=9.5 Hz). MS (ES+) 392 (M+1).

reactant | 6,6-dimethyl-3-methanesulphonyl-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 1.1 mmol, 400 mg | CC1(CC(C=2C(=C(SC2S(=O)(=O)C)C(=O)N2CCCC2)C1)=O)C | C16H21NO4S2
reactant | NaOH | [OH-].[Na+]
reactant | 2,2,2-trifluoroethanethiol | 2.2 mmol, 0.2 mL | FC(CS)(F)F | C2H3F3S
solvent | EtOH | 15 mL | CCO | C2H6O
product | 6,6-Dimethyl-1-(pyrrolidin-1-ylcarbonyl)-3-(2,2,2-trifluoroethylthio)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | CC1(CC(C=2C(=C(SC2SCC(F)(F)F)C(=O)N2CCCC2)C1)=O)C | C17H20F3NO2S2
